US05438132
A mixture of 0.273 g (0.00086 mole) of (1'S, 3'S, 4'S)-2-amino-1,9-dihydro-9-[3,4-dihydroxy-3-(hydroxymethyl)-1-cyclopentanyl]-6H-purin-6-one hydrochloride, 2 ml of deionized water and 0.86 ml of 1N aqueous sodium hydroxide was heated to induce homogeneity under a nitrogen atmosphere. The solution was cooled to room temperature to induce crystallization and the solid was isolated in two crops. The solids were collected by filtration and were dissolved in 80 ml of hot methanol. The hot solution was filtered and concentrated to ca. 10 ml to induce crystallization. The 0.170 g of (1'S, 3'S, 4'S)-2-amino-1,9-dihydro-9-[3,4-dihydroxy-3-(hydroxymethyl)-1-cyclopentanyl]-6H-purin-6-one free base was obtained in two crops as an off-white solid, mp>280° C. (decomposed); [α]D22 +13.3° (c 0.17, H2O).

reactant | 2-amino-1,9-dihydro-9-[3,4-dihydroxy-3-(hydroxymethyl)-1-cyclopentanyl]-6H-purin-6-one hydrochloride | Cl.NC=1NC(C=2N=CN(C2N1)C1CC(C(C1)O)(CO)O)=O
reactant | sodium hydroxide | 1N, 0.86 ml | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | 2-amino-1,9-dihydro-9-[3,4-dihydroxy-3-(hydroxymethyl)-1-cyclopentanyl]-6H-purin-6-one | NC=1NC(C=2N=CN(C2N1)C1CC(C(C1)O)(CO)O)=O | C11H15N5O4
